US07709519B2
To a DMF solution (30 ml) containing 2.70 g of 3-bromo-2-chlorobenzoic acid were added 1.10 ml of methyl iodide and 2.38 g of potassium carbonate in order at room temperature, followed by 1 hour of stirring. The reaction liquid was mixed with water and then diluted with ethyl acetate. After a layer separation operation, the organic layer was washed with water and saturated brine in that order, dried with anhydrous magnesium sulfate and then concentrated under a reduced pressure. The thus obtained residue was purified by a silica gel column chromatography using ethyl acetate-n-hexane (100:3) as the elution solvent to obtain 2.26 g (79%) of methyl 3-bromo-2-chlorobenzoate. FA: 250

reactant | DMF | 30 ml | CN(C)C=O | C3H7NO
reactant | 3-bromo-2-chlorobenzoic acid | 2.70 g | BrC=1C(=C(C(=O)O)C=CC1)Cl | C7H4BrClO2
reactant | methyl iodide | 1.10 ml | CI | CH3I
reactant | potassium carbonate | 2.38 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | methyl 3-bromo-2-chlorobenzoate | 2.26 g, 79% | BrC=1C(=C(C(=O)OC)C=CC1)Cl | C8H6BrClO2
